US06352993B1
5,6-dimethyl-2-(2-methoxyethylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After methoxyethylamine(0.23 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.5 g, 1.8 mmol) in dimethylformamide, 470 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | methoxyethylamine | 2.7 mmol, 0.23 ml | COCCN | C3H9NO
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(2-methoxyethylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 470 mg, Yield: 74.8% | Cl.CC=1C(=NC(=NC1C)NCCOC)N1CC2=CC=CC=C2CC1 | InChI=1S/C18H24N4O.ClH/c1-13-14(2)20-18(19-9-11-23-3)21-17(13)22-10-8-15-6-4-5-7-16(15)12-22;/h4-7H,8-12H2,1-3H3,(H,19,20,21);1H
